US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-(piperazin-1-yl)quinoxaline-6-carboxylate (180 mg, 0.59 mmol) in dichloromethane (10 ml) was added Et3N (202 mg, 2 mmol) and methanesulfonyl chloride (110 mg, 0.98 mmol). The resulting solution was stirred for 1 hour at room temperature. The reaction was then quenched by the addition of ice-water (20 ml) and extracted with dichloromethane (3×15 ml). The organic layers were combined, dried over anhydrous magnesium sulfate, and concentrated in vacuo to afford methyl 2-(4-fluorophenyl)-3-(4-(methylsulfonyl)piperazin-1-yl)quinoxaline-6-carboxylate as a yellow solid (0.14 g, 70%).

reactant | methyl 2-(4-fluorophenyl)-3-(piperazin-1-yl)quinoxaline-6-carboxylate | 0.59 mmol, 180 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CCNCC1)C(=O)OC | C20H19FN4O2
reactant | Et3N | 2 mmol, 202 mg | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.98 mmol, 110 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 2-(4-fluorophenyl)-3-(4-(methylsulfonyl)piperazin-1-yl)quinoxaline-6-carboxylate | 0.14 g, 70% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)S(=O)(=O)C)C(=O)OC | C21H21FN4O4S
